US07834051B2
2-chloro-4-[(2S,3S,4S)-3-hydroxy-4-isobutyl-2-methyl-5-oxopyrrolidin-1-yl]benzonitrile
To a solution of 2-chloro-4-[(2S,3S,4S)-3-hydroxy-2-methyl-4-(2-methylprop-2-en-1-yl)-5-oxopyrrolidin-1-yl]benzonitrile (22.3 mg) in methanol (3.0 mL) was added palladium/fibroin (12.0 mg), and the mixture was stirred for 48 hr under a hydrogen atmosphere. The reaction mixture was filtered, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent: hexane/ethyl acetate=50/1→1/1) to give the title compound as a pale-yellow oil (yield: 4.3 mg, 19.1%).

reactant | 2-chloro-4-[(2S,3S,4S)-3-hydroxy-2-methyl-4-(2-methylprop-2-en-1-yl)-5-oxopyrrolidin-1-yl]benzonitrile | 22.3 mg | ClC1=C(C#N)C=CC(=C1)N1[C@H]([C@H]([C@@H](C1=O)CC(=C)C)O)C | C16H17ClN2O2
solvent | methanol | 3.0 mL | CO | CH4O
catalyst | palladium | [Pd] | Pd
product | 2-chloro-4-[(2S,3S,4S)-3-hydroxy-4-isobutyl-2-methyl-5-oxopyrrolidin-1-yl]benzonitrile | yield: 4.3 mg, 19.1% | ClC1=C(C#N)C=CC(=C1)N1[C@H]([C@H]([C@@H](C1=O)CC(C)C)O)C | C16H19ClN2O2
